### PR TITLE
[Merged by Bors] - feat(Algebra): toAlgebra_algebraMap

### PR DESCRIPTION
**Pull request by kckennylau**
This PR adds the following lemma:
```lean
lemma toAlgebra_algebraMap [Algebra R S] : (algebraMap R S).toAlgebra = ‹_›
```

in order to prove theorems such as:
```lean
@[simp]
lemma finite_algebraMap [Algebra A B] :
    (algebraMap A B).Finite ↔ Module.Finite A B := by
  rw [RingHom.Finite, toAlgebra_algebraMap]
```

---

(Note: one could probably improve `algebraize` to automate this.)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Defs.lean [hunk 1]
```diff
@@ -257,6 +257,12 @@ theorem algebra_ext {R : Type*} [CommSemiring R] {A : Type*} [Semiring A] (P Q :
   rcases Q with @⟨⟨Q⟩⟩
   congr
 
+/-- An auxiliary lemma used to prove theorems of the form
+`RingHom.X (algebraMap R S) ↔ Algebra.X R S`. -/
+lemma _root_.toAlgebra_algebraMap {R S : Type*} [CommSemiring R] [CommSemiring S] [Algebra R S] :
+    (algebraMap R S).toAlgebra = ‹_› :=
```
Comment (chrisflav) [inline Mathlib/Algebra/Algebra/Defs.lean]: You should be able to reuse some section variables here.

**Review by chrisflav — APPROVED** [review]
Thanks, this is clearly an improvement. Also, I don't think we need to teach `algebraize` to do this.

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/Algebra/Algebra/Defs.lean (hunk 1 above)
Comment (kckennylau) [reply Mathlib/Algebra/Algebra/Defs.lean]: done
